US09428510B2
275 μl (2 eq) of hydrazine monohydrate is added to a solution of 872 mg (2.84 mmol) of 6-amino-5-iodo-2-(methylsulfinyl)nicotinonitrile in 11 ml of 2-propanol. The reaction medium is stirred at 80° C. for 3 hours. Water is added and the product is extracted with ethyl acetate. The organic phase is dried on magnesium sulfate, filtered and evaporated. The residue is triturated in a minimum of diisopropyl ether. The solid is filtered to yield 523 mg (67%) of 5-iodo-1H-pyrazolo[3,4-b]pyridin-3,6-diamine in the form of a brown powder.

reactant | hydrazine monohydrate | 275 μl, 2 eq | O.NN
reactant | 6-amino-5-iodo-2-(methylsulfinyl)nicotinonitrile | 2.84 mmol, 872 mg | NC1=NC(=C(C#N)C=C1I)S(=O)C | C7H6IN3OS
reactant | Water | O | H2O
solvent | 2-propanol | 11 ml | CC(C)O | C3H8O
product | 5-iodo-1H-pyrazolo[3,4-b]pyridin-3,6-diamine | 523 mg, 67% | IC=1C=C2C(=NC1N)NN=C2N | C6H6IN5
